US09079866B2
(S)-4′-(6-Aminopyridin-3-yl)-3′-fluoro-N-(1-hydroxypropan-2-yl)-[1,1′-biphenyl]-2-sulfonamide
A mixture of (4-(6-aminopyridin-3-yl)-3-fluorophenyl)boronic acid (100 mg, 0.43 mmol), (S)-2-bromo-N-(1-hydroxypropan-2-yl)benzenesulfonamide (160 mg, 0.54 mmol), Pd(dppf)Cl2.CH2Cl2 (18 mg, 0.022 mmol), K2CO3 (340 mg, 2.4 mmol), and DMSO (3 mL) was sparged with nitrogen, then the reaction vessel was sealed and heated at 80° Celsius for 16 hours. The mixture was cooled to rt, then filtered, and subjected to HPLC purification to provide the title compound. MS (CI): mass calcd. for C20H20FN3O3S, 401.12; m/z found, 402.1 [M+H]+. 1H NMR (500 MHz, DMSO-d6) δ 8.31-7.93 (m, 5H), 7.72-7.57 (m, 3H), 7.42-7.25 (m, 4H), 7.11-7.04 (d, J=9.2, 1H), 3.34-3.25 (s, 1H), 3.18-3.00 (m, 2H), 1.00-0.91 (d, J=6.5, 3H).

reactant | (4-(6-aminopyridin-3-yl)-3-fluorophenyl)boronic acid | 0.43 mmol, 100 mg | NC1=CC=C(C=N1)C1=C(C=C(C=C1)B(O)O)F | C11H10BFN2O2
reactant | (S)-2-bromo-N-(1-hydroxypropan-2-yl)benzenesulfonamide | 0.54 mmol, 160 mg | BrC1=C(C=CC=C1)S(=O)(=O)N[C@H](CO)C | C9H12BrNO3S
reactant | CH2Cl2 | 0.022 mmol, 18 mg | C(Cl)Cl | CH2Cl2
reactant | K2CO3 | 2.4 mmol, 340 mg | C(=O)([O-])[O-].[K+].[K+]
catalyst | Pd(dppf)Cl2 | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | DMSO | 3 mL | CS(=O)C | C2H6OS
product | (S)-4′-(6-Aminopyridin-3-yl)-3′-fluoro-N-(1-hydroxypropan-2-yl)-[1,1′-biphenyl]-2-sulfonamide | NC1=CC=C(C=N1)C1=C(C=C(C=C1)C=1C(=CC=CC1)S(=O)(=O)N[C@H](CO)C)F | C20H20FN3O3S
